US07473734B2
The potassium octoate was prepared by stirring 5.76 g of octanoic acid in 2 g of water and neutralizing with 5.00 g of aqueous potassium hydroxide (45%) diluted with 3 g of water. A waxy solid formed in the flask which was dissolved by adding about 15 ml of ethanol. The total solution was evaporated on a watch glass on a steam bath under a flow of nitrogen to give 7.2 g white solid.

reactant | octanoic acid | 5.76 g | C(CCCCCCC)(=O)O | C8H16O2
reactant | ethanol | about 15 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 5.00 g | [OH-].[K+]
solvent | water | 2 g | O | H2O
solvent | water | 3 g | O | H2O
product | potassium octoate | CCCCCCCC(=O)O.[K+] | InChI=1S/C8H16O2.K/c1-2-3-4-5-6-7-8(9)10;/h2-7H2,1H3,(H,9,10);/q;+1
